US07569550B2
a) 1-Ethyl-6-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester
A mixture of 1,4-dihydro-6-iodo-4-oxo-quinoline-3-carboxylic acid (J. Ellis et al, Aust. J. Chem., 1973, 26, 907) (3.15 g, 10 mmol), potassium carbonate (6.9 g, 50 mmol) and iodoethane (15.6 g, 100 mmol) in dry DMF was heated at 70° C. with vigorous stirring. After 16 h the mixture was cooled and diluted with ethyl acetate. The resultant mixture was washed with water and the organic phase separated, dried and evaporated to yield the title compound as pale yellow solid, 1H NMR δ (CDCl3) 1.41 (3H, t, J=7.1 Hz), 1.54 (3H, t, J=7.3 Hz), 4.23 (2H, q, J=7.2 Hz), 4.40 (2H, q, J=7.1 Hz), 7.20 (1H, d, J=8.9 Hz), 7.95 (1H, dd, J=2.1 & 8.9 Hz), 8.48 (1H, s), 8.86 (1H, d, J=2.1 Hz).

reactant | 1,4-dihydro-6-iodo-4-oxo-quinoline-3-carboxylic acid | 10 mmol, 3.15 g | IC=1C=C2C(C(=CNC2=CC1)C(=O)O)=O | C10H6INO3
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 100 mmol, 15.6 g | ICC | C2H5I
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Ethyl-6-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C2=CC=C(C=C2C1=O)I)CC | C14H14INO3
